US06352982B1
A tetrahydrofuran (30 ml) solution of N-methyl-N-methyloxy-2-amino-5-chlorobenzamide (3.21 g) and N-tert-butoxycarbonyl-4-bromobenzylamine (2.86 g) was cooled to −78° C. To the solution kas gradually added dropwise a hexane solution of n-butyl lithium (1.6 mol/L) (31 ml). To the mixture were then added water (100 ml) and acetic acid ethyl ester (100 ml). The organic layer was washed with water and dried over anhydrous MgSO4. The solvent was then distilled off, and the residue was purified by means of a silica gel column chromatography. followed by crystallization. The crystals were collected to give 2-amino-4′-tert-butoxycarbonylaminomethyl-5-chlorobenzophenone (0.9 g) as a pale yellow crystalline product.

reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
reactant | N-methyl-N-methyloxy-2-amino-5-chlorobenzamide | 3.21 g | CN(C(C1=C(C=CC(=C1)Cl)N)=O)OC | C9H11ClN2O2
reactant | N-tert-butoxycarbonyl-4-bromobenzylamine | 2.86 g | C(C)(C)(C)OC(=O)NCC1=CC=C(C=C1)Br | C12H16BrNO2
reactant | n-butyl lithium | 1.6 mol/L, 31 ml | C(CCC)[Li]
solvent | acetic acid ethyl ester | 100 ml | C(C)OC(C)=O | C4H8O2
solvent | water | 100 ml | O | H2O
solvent | hexane | CCCCCC | C6H14
product | 2-amino-4′-tert-butoxycarbonylaminomethyl-5-chlorobenzophenone | 0.9 g | NC1=C(C(=O)C2=CC=C(C=C2)CNC(=O)OC(C)(C)C)C=C(C=C1)Cl | C19H21ClN2O3
